US05155268
4-Aminophenyl-N-ethyl-N-heptylacetamide, Chart IV; Step II
N-Ethyl-N-heptyl-4-nitrophenylacetamide (Preparation 18) (7.5 g) is hydrogenated on the Parr hydrogenator in two portions; i.e., 3.75 g in 150 ml methanol plus 0.4 g of 10% Pd/C catalyst at an initial hydrogen pressure of 50 psi. The hydrogen uptake ceases after 15 min; after 15 min more, the mixture is filtered through Celite. The filtrates of both runs are pooled and concentrated in vacuo. The residue is dissolved in 20 ml of EtOH, 200 ml of Et2O is added and the mixture treated with 12.0 ml of ca. 2.8M ethereal HCl with a resulting precipitate. This precipitate is collected and washed with ether to give the title compound; m.p. 172°-174° C.

reactant | N-Ethyl-N-heptyl-4-nitrophenylacetamide | 7.5 g | C(C)N(C(CC1=CC=C(C=C1)[N+](=O)[O-])=O)CCCCCCC | C17H26N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | 4-Aminophenyl-N-ethyl-N-heptylacetamide | NC1=CC=C(C=C1)CC(=O)N(CCCCCCC)CC | C17H28N2O
